US09375000B2
1-({2-Methyl-6-[3-(3,4,5-trichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]pyridin-3-yl}methanamine (0.2 g) and triethylamine (0.1 g) were added to dichloromethane (20 ml), and to the solution was added dropwise a dichloromethane solution (10 ml) of propionic anhydride (0.1 g) under ice cooling. Upon the completion of the dropwise addition, the reaction mixture was stirred at room temperature for 1 hour, the solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography to obtain N-({2-methyl-6-[3-(3,4,5-trichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]pyridin-3-yl}methyl)propanamide (0.2 g).

reactant | {2-Methyl-6-[3-(3,4,5-trichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]pyridin-3-yl}methanamine | 0.2 g | CC1=NC(=CC=C1CN)N1CC(CC1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C18H17Cl3F3N3
reactant | triethylamine | 0.1 g | C(C)N(CC)CC | C6H15N
reactant | propionic anhydride | 0.1 g | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-({2-methyl-6-[3-(3,4,5-trichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]pyridin-3-yl}methyl)propanamide | 0.2 g | CC1=NC(=CC=C1CNC(CC)=O)N1CC(CC1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C21H21Cl3F3N3O
